* D:\github-stuff\STM32-Li-ion-charger-dischager-LCD\spice_simulation\Internal_Resistance_AC_Method.asc
R2 N012 S1 5
C1 N013 N012 100n
C2 S2 N013 100n
V1 S1 0 SINE(1 1 1k)
V2 N013 0 4 Rser=0.5
V3 15V 0 15
XU4 0 N008 15V 0 N010 LT1001
D4 N009 N010 1N5817
D5 N010 N008 1N5817
R10 N009 N008 10k
R11 N017 0 50k
R12 N008 N011 10k
XU5 0 N015 15V 0 N016 LT1001
R13 N015 N009 5k
R14 N016 N015 10k
R15 N015 N011 10k
C4 N017 0 4.7µ
R16 N017 N016 1k
XU6 0 N001 15V 0 N003 LT1001
D6 N002 N003 1N5817
D7 N003 N001 1N5817
R9 N002 N001 10k
V6 N004 0 SINE(0 1 1k)
R17 N007 0 50k
R18 N001 N004 10k
XU7 0 N005 15V 0 N006 LT1001
R19 N005 N002 5k
R20 N006 N005 10k
R21 N005 N004 10k
C5 N007 0 4.7µ
R22 N007 N006 1k
XU8 S2 N014 15V 0 N011 LT1001
R23 N014 N011 10k
R24 0 N014 100k
R25 0 NC_01 10k
.model D D
.lib C:\Users\robert_alfred.kecs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100m 0 1u
.lib LTC.lib
.backanno
.end
