* D:\github-stuff\STM32-Li-ion-charger-dischager-LCD\spice_simulation\Internal_Resistance_AC_Method.asc
R2 N014 S1 5
C1 N015 N014 100n
C2 S2 N015 100n
V1 S1 0 SINE(1 1 1k)
V2 N015 0 4 Rser=0.5
V3 15V 0 15
XU4 0 N010 15V 0 N012 LT1001
D4 N011 N012 1N5817
D5 N012 N010 1N5817
R10 N011 N010 10k
R11 N019 0 50k
R12 N010 N013 10k
XU5 0 N017 15V 0 N018 LT1001
R13 N017 N011 5k
R14 N018 N017 10k
R15 N017 N013 10k
C4 N019 0 4.7µ
R16 N019 N018 1k
XU6 0 N001 15V 0 N003 LT1001
D6 N002 N003 1N5817
D7 N003 N001 1N5817
R9 N002 N001 10k
V6 N004 0 SINE(0 1 1k)
R17 N007 0 50k
R18 N001 N004 10k
XU7 0 N005 15V 0 N006 LT1001
R19 N005 N002 5k
R20 N006 N005 10k
R21 N005 N004 10k
C5 N007 0 4.7µ
R22 N007 N006 1k
XU8 S2 N016 15V 0 N013 LT1001
R23 N016 N013 10k
R24 0 N016 100k
R25 0 NC_01 10k
D1 S2 N008 1N5817
V4 N009 0 3.3 Rser=0
R1 N009 N008 10k
R3 N008 0 1k
.model D D
.lib C:\Users\robert_alfred.kecs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10m 0 100n
.lib LTC.lib
.backanno
.end
